US07834021B2
To a solution of 8-(4-iodo-phenyl)-1,4 dioxa-spiro[4.5]decan-8-ol (2 g) in acetone (10 mL) was added 5% HCl (20 mL) and the mixture was stirred at rt for 14 hours. The mixture was neutralized with 1N NaOH to pH 7, concentrated on rotvap, and then extracted with ethyl acetate (2×50 mL). The organic extracts were combined, washed with saline solution (2×50 mL), dried over sodium sulfate, concentrated in vacuo to provide 4-hydroxy-4-(4-iodophenyl)cyclohexanone (1.7 g, 98%). LCMS: 317.3 (M+H+, 100%).

reactant | 8-(4-iodo-phenyl)-1,4 dioxa-spiro[4.5]decan-8-ol | 2 g | IC1=CC=C(C=C1)C1(CCC2(OCCO2)CC1)O | C14H17IO3
reactant | HCl | 20 mL | Cl | ClH
reactant | NaOH | 1N | [OH-].[Na+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 4-hydroxy-4-(4-iodophenyl)cyclohexanone | 1.7 g, 98% | OC1(CCC(CC1)=O)C1=CC=C(C=C1)I | C12H13IO2
